US03975310
By replacing above 2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-1 -cyclohexene by 2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-2-cyclohexene, cis-2,6,6-trimethyl-1-crotonoyl-2-cyclohexene was obtained.

reactant | 2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-1 -cyclohexene | CC1=C(C(CCC1)(C)C)C(C=CC)O | C13H22O
reactant | 2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-2-cyclohexene | CC=1C(C(CCC1)(C)C)C(C=CC)O | C13H22O
product | cis-2,6,6-trimethyl-1-crotonoyl-2-cyclohexene | CC=1C(C(CCC1)(C)C)C(\C=C/C)=O | C13H20O
